US06165941
5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-1-(1-methylethyl)-3-(2-propynyl)benzimidazol-2-one (Table 3, Compound No. Ic.06)
In a similar manner to the preparation of 5-(3-chloro-5-trifluoromethylpyridin-2yl)-3-methyl-1-(1-methylethyl)benzimidazol-2-one described above, 2.5 g of 5-(3-chloro-5-trifluoromethylpyridin-2yl)-1-(1-methylethyl)benzimidazol-2-one and 0.9 g of propargyl bromide gave, after chromatography on silica gel, 1.3 g (47%) of colorless crystals. Yield: 47%; m.p.: 109-111° C.

reactant | 5-(3-chloro-5-trifluoromethylpyridin-2yl)-3-methyl-1-(1-methylethyl)benzimidazol-2-one | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2C)=O)C(C)C)C=C1 | C17H15ClF3N3O
reactant | 5-(3-chloro-5-trifluoromethylpyridin-2yl)-1-(1-methylethyl)benzimidazol-2-one | 2.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2)=O)C(C)C)C=C1 | C16H13ClF3N3O
reactant | propargyl bromide | 0.9 g | C(C#C)Br | C3H3Br
product | 5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-1-(1-methylethyl)-3-(2-propynyl)benzimidazol-2-one | Yield: 47% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2CC#C)=O)C(C)C)C=C1 | C19H15ClF3N3O
